US04022795
Bromobenzene (15.7 parts), cetyltrimethylammonium bromide (4.0 parts), 3% palladium on charcoal (50% paste; 2.0 parts), sodium formate (6.8 parts) and sodium hydroxide liquor (32%; 27 parts) in water (60 parts) are stirred at the boil under reflux for 4 hours. Sodium formate (6.8 parts) is then added and the mixture held at the boil under reflux for a further 18 hours. The mixture is then steam distilled. The steam distillate is extracted with chloroform (3 × 50 parts) and then the extract dried over anhydrous magnesium sulphate. After filtering off the drying agent the solvent is removed under vacuum to give 5.1 parts (66.2%) of biphenyl.

reactant | Bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | cetyltrimethylammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
product | biphenyl | 66.2% | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
